US05750213
First, 0.62 g of sodium ethoxide, 1.5 g of diethyl malonate, and 50 ml of dry ethanol were placed in a 100 ml flask whose content was replaced with argon. Then, 20 ml of tetrahydrofuran solution in which 4 g of 2,3-difluoro-4'-(11-bromoundecyl)oxybiphenyl was dissolved was added dropwise to the reaction mixture, and the resultant reaction mixture was stirred under reflux for 8 hours. The reaction mixture was poured into diluted hydrochloric acid, and an organic layer was extracted with ether. The ether layer was washed with water and dried over anhydrous sodium sulfate. Thereafter, the solvent was distilled away. The residue was purified by silica gel column chromatography (eluent: toluene) to obtain 4 g of 2,3-difluoro-4'-[12,12-bis(ethoxycarbonyl)dodecyl]oxybiphenyl (Y: 84.7%). The compound thus obtained had a purity of 99.8% by GC.

reactant | sodium ethoxide | 0.62 g | [O-]CC.[Na+]
reactant | diethyl malonate | 1.5 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
reactant | 2,3-difluoro-4'-(11-bromoundecyl)oxybiphenyl | 4 g | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCCCCCCBr | C23H29BrF2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,3-difluoro-4'-[12,12-bis(ethoxycarbonyl)dodecyl]oxybiphenyl | 4 g, 84.7% | FC1=C(C=CC=C1F)C1=CC=C(C=C1)OCCCCCCCCCCCC(C(=O)OCC)C(=O)OCC | C30H40F2O5
